US04622418
N-Boc-2-Amino-2-methylpropanol is dissolved in triethylamine under argon at 0° C. Methanesulfonyl chloride is added and the mixture is stirred overnight. The solution is poured into 10% aqueous citric acid and extracted with ethyl acetate. The organic layer is dried over MgSO4, filtered and evaporated to give N-Boc-2-amino-2-methyl-1-propyl mesylate.

reactant | N-Boc-2-Amino-2-methylpropanol | C(=O)(OC(C)(C)C)NC(CO)(C)C | C9H19NO3
reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-Boc-2-amino-2-methyl-1-propyl mesylate | S(C)(=O)(=O)OCC(C)(C)NC(=O)OC(C)(C)C | C10H21NO5S
